US09255100B2
N-cyclopropyl-4-[8-({(2S)-2-[(4R)-2,2-dimethyl-1,3-dioxolan-4-yl]-2-hydroxyethyl}amino)-6-(1-methyl-1H-pyrazol-5-yl)imidazo[1,2-b]pyridazin-3-yl]benzamide
To a mixture of 52 mg (94 mot) 4-[6-chloro-8-({(2S)-2-[(4R)-2,2-dimethyl-1,3-dioxolan-4-yl]-2-hydroxyethyl}amino)imidazo[1,2-b]pyridazin-3-yl]-N-cyclopropylbenzamide which was prepared according to intermediate example 192a, 33 mg 1-methyl-1H-pyrazol-5-yl) boronic acid, 6.5 mg tetrakis(triphenylphosphin)palladium in 1 mL of ethanol and 1 mL of toluene was added 0.26 mL of an aqueous 10% sodiumbicarbonate solution and the mixture was stirred at 120° C. for 2 hours under microwave irradiation. Then the mixture was filtered, the solvent was removed and the residue was purified by chromatography to give 36 mg of the title compounds.

reactant | 4-[6-chloro-8-({(2S)-2-[(4R)-2,2-dimethyl-1,3-dioxolan-4-yl]-2-hydroxyethyl}amino)imidazo[1,2-b]pyridazin-3-yl]-N-cyclopropylbenzamide | 52 mg | ClC=1C=C(C=2N(N1)C(=CN2)C2=CC=C(C(=O)NC1CC1)C=C2)NC[C@H](O)[C@@H]2OC(OC2)(C)C | C23H26ClN5O4
reactant | boronic acid | B(O)O | BH3O2
reactant | sodiumbicarbonate | C([O-])(O)=O.[Na+]
reactant | ethanol | 1 mL | C(C)O | C2H6O
solvent | toluene | 1 mL | C1(=CC=CC=C1)C | C7H8
product | N-cyclopropyl-4-[8-({(2S)-2-[(4R)-2,2-dimethyl-1,3-dioxolan-4-yl]-2-hydroxyethyl}amino)-6-(1-methyl-1H-pyrazol-5-yl)imidazo[1,2-b]pyridazin-3-yl]benzamide | 36 mg | C1(CC1)NC(C1=CC=C(C=C1)C1=CN=C2N1N=C(C=C2NC[C@H](O)[C@@H]2OC(OC2)(C)C)C2=CC=NN2C)=O | C27H31N7O4
